US03984467
Following a procedure similar to that described in Example 42 but using 2.3 g. sodium in 250 ml. dry acetone, 16.4 g. heptanamidine hydrochloride, and 20.4 g. 3,4-dichlorophenyl isothiocyanate (b.p. 149-152/15-16 mm.) in 150 ml. dry acetone there was obtained 1-(3,4-dichlorophenyl)-3-(heptanimidoyl)-2-thiourea, m.p. 89°-90°C. (from benzene-n-pentane); hydrochloride (27 g.), m.p. 158°-160°C. (from acetonitrile).

reactant | sodium | [Na] | Na
reactant | acetone | CC(=O)C | C3H6O
reactant | heptanamidine hydrochloride | Cl.C(CCCCCC)(=N)N
reactant | 3,4-dichlorophenyl isothiocyanate | ClC=1C=C(C=CC1Cl)N=C=S | C7H3Cl2NS
solvent | benzene n-pentane | C1=CC=CC=C1.CCCCC
product | 1-(3,4-dichlorophenyl)-3-(heptanimidoyl)-2-thiourea | ClC=1C=C(C=CC1Cl)NC(=S)NC(CCCCCC)=N | C14H19Cl2N3S
